US05977219
To a 250 mL 3-necked flask equipped with a mechanical stirrer, thermometer, condenser and nitrogen inlet is added 1.8 g of potassium hydroxide and 40 mL of methanol. The mixture is warmed to 40° C. to dissolve the potassium hydroxide. To this solution is added 2.7 g of 5-carbomethoxy-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole, prepared in Example 36, in 40 mL of methanol. The reaction mixture is refluxed for six hours. The mixture is then cooled and acidified with hydrochloric acid. Ether and ethyl acetate are added, and the organic layer is separated and dried over anhydrous sodium sulfate. After vacuum stripping of the solvent, 2.5 g of 5-carboxy-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole is isolated.

reactant | potassium hydroxide | 1.8 g | [OH-].[K+]
reactant | 5-carbomethoxy-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 2.7 g | C(=O)(OC)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C31H37N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-carboxy-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 2.5 g | C(=O)(O)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C30H35N3O3
